US06391874B1
(4-(4-Fluoro-benzyloxy)-phenyl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 4-(4-fluoro-benzyloxy)aniline and 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.81(1H,bs), 9.53(1H,s), 8.91(1H,s), 8.67(1H,dd), 8.13(1H, d), 7.63(2H,d), 7.54(2H,dd), 7.25(2H,dd), 7.15(2H,d), 5.15(2H,s); m/z (M+1+) 482.

reactant | 4-(4-fluoro-benzyloxy)aniline | FC1=CC=C(COC2=CC=C(N)C=C2)C=C1 | C13H12FNO
reactant | 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C(F)(F)F | C11H4ClF3N4O
product | (4-(4-Fluoro-benzyloxy)-phenyl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.FC1=CC=C(COC2=CC=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2OC(=NN2)C(F)(F)F)C=C1 | InChI=1S/C24H15F4N5O2.ClH/c25-16-4-1-14(2-5-16)12-34-18-8-6-17(7-9-18)31-21-19-11-15(3-10-20(19)29-13-30-21)22-32-33-23(35-22)24(26,27)28;/h1-11,13H,12H2,(H,29,30,31);1H
